US06727368B1
cis-5-Methoxymethyl-3-Cyano-Cbz-Pyrrolidine 4.6.
cis-5-Methoxymethyl-Boc-3-Pyrrolidine Benzyl Ester Acid {cis-Boc-(5-MOM)-PCA-OBn} 4.8. cis-5-Methoxymethyl-Boc-3-pyrrolidine carboxylic acid (1.4 g, 5.3 mmol) was dissolved in DMF (26.5 mL). Cs2CO3 (1.73 g, 5.3 mmol) and benzyl bromide (0.76 mL, 6.4 mmol) were added, and the reaction mixture was stirred 24 h at room temperature. The reaction mixture was concentrated, and the residue was dissolved in H2O. The aqueous solution was extracted with ethyl acetate. The organic layer was dried over MgSO4 and concentrated. The crude product was purified by column chromatography eluting with ethyl acetate/hexanes (1/1, v/v) to afford 1.88 g (85% yield) of the desired product as an oil.

reactant | cis-5-Methoxymethyl-Boc-3-pyrrolidine carboxylic acid | 5.3 mmol, 1.4 g | COC[C@@H]1C[C@@H](CN1C(=O)OC(C)(C)C)C(=O)O | C12H21NO5
reactant | Cs2CO3 | 5.3 mmol, 1.73 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | benzyl bromide | 6.4 mmol, 0.76 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | DMF | 26.5 mL | CN(C)C=O | C3H7NO
product | cis-5-Methoxymethyl-3-Cyano-Cbz-Pyrrolidine | 1.88 g, 85% yield | COC[C@@H]1C[C@@H](CN1C(=O)OCC1=CC=CC=C1)C#N | C15H18N2O3
